US06887824B1
Since TmI2(DME)x exhibits such high reactivity at room temperature, its viability at reduced temperature is examined. In these reactions, TmI2(DME)x is added as a DME solution by syringe using a saturated stock solution generated in situ from Tm and I2. Phenethyl iodide reacts smoothly at −22° C. in 10 minutes to form phenethylcyclohexanol in 96% yield (entry f). The reaction of phenethyl bromide with cyclohexanone at 0° C. produces a 96% yield of phenethylcyclohexanol in 20 minutes (entry g), while reaction at −22° C. gave a 94% yield in 60 minutes (entry h). Phenethyl chloride reacts at 0° C. to give a 90% yield after 1 hour (entry j). This variation of reaction time as a function of temperature could be used to control regiochemistry in sequenced reactions.

reactant | phenethyl bromide | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
product | phenethylcyclohexanol | 96% yield | C(CC1=CC=CC=C1)C1(CCCCC1)O | C14H20O
